US05409953
3,4-Dibenzyloxy-benzaldehyde
A mixture of 3,4-dihydroxy-benzaldehyde (2.76 g, 20 mmol) in dry acetone (50 ml), potassium carbonate (5.52 g, 40 mmol) and benzylbromide (5 ml, 42 mmol) was heated at reflux for 12 hours. The mixture was cooled to room temperature, potassium carbonate was removed by filtering the solution and the filtrate was concentrated to a powder which was recrystallized from acetone to yield (5.4 g, 81%) ether as prisms, mp 89°-90° (lit. mp 90°) IR υmax 1685, 1595, 1483, 1508, 1454, 1434, 1269, 1132, 695, 650 cm-1 ; and 1H-NMR (90 MHz), 5.21 (2H, s, ArCH2O), 5.26 (2H, s, ArCH20), 7.02 (1H, d, J=7.9 Hz), 7.30-7.50 (12H, ArH), 9.81 (1H, s, CHO). Anal. calcd for C21H18O3 : C, 79.23; H, 5.70. Found: C, 79.26;H, 5.68.

reactant | 3,4-dihydroxy-benzaldehyde | 20 mmol, 2.76 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | potassium carbonate | 40 mmol, 5.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 42 mmol, 5 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3,4-Dibenzyloxy-benzaldehyde | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C21H18O3
